US07960560B2
i)—To a solution of 2-bromo-benzylalcohol (5 g, 26.7 mmol) in 2-methoxyethanol/water (30 ml, 1/1) were added 4-formylphenylboronic acid (6 g, 40.0 mmol) and sodium bicarbonate (4.4 g, 52.4 mmol) under a nitrogen atmosphere. After (Ph3P)4Pd (1.54 g, 1.34 mmol) was added, the reaction mixture was heated under reflux for 17 h. After cooling, the mixture was filtered over dicalite and the residue was washed with water and ethyl acetate. The product was extracted into ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulfate concentrated under reduced pressure. Column chromatography afforded 2′-hydroxymethyl-biphenyl-4-carbaldehyde (3.95 g).

reactant | 2-bromo-benzylalcohol | 26.7 mmol, 5 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | 4-formylphenylboronic acid | 40.0 mmol, 6 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium bicarbonate | 52.4 mmol, 4.4 g | C([O-])(O)=O.[Na+]
solvent | 2-methoxyethanol water | 30 ml | COCCO.O
catalyst | (Ph3P)4Pd | 1.34 mmol, 1.54 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-hydroxymethyl-biphenyl-4-carbaldehyde | 3.95 g | OCC1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H12O2
